US04925862
STEP A: Ethyl 2,3-dihydro-2-oxo-3-(2-propynyl)-4-trifluoromethyl-5-thiazolcarboxylate
6.9 g of ethyl 2,3-dihydro-2-oxo-4-trifluoromethyl-5-thiazole-carboxylate [prepared by the process of CA 92 110 998P] were dissolved in 70 ml of tetrahydrofuran at 0° ± 5° C. and then, 1.44 g of 50% sodium hydride in oil were added. Once the gaseous evolution ended, 15 ml of 2-bromopropyne were added and the mixture was refluxed for 48 hours. The mixture was poured on to an iced solution of monosodium phosphate and extraction was carried out with methylene chloride, then drying, filtering and concentrating under reduced pressure. The residue was chromatographed and elution with a hexane-ethyl acetate mixture (85-15) yielded 5.57 g of the expected product.

reactant | ethyl 2,3-dihydro-2-oxo-4-trifluoromethyl-5-thiazole-carboxylate | 6.9 g | O=C1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H6F3NO3S
reactant | sodium hydride | 1.44 g | [H-].[Na+]
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | Ethyl 2,3-dihydro-2-oxo-3-(2-propynyl)-4-trifluoromethyl-5-thiazolcarboxylate | 5.57 g | O=C1SC(=C(N1CC#C)C(F)(F)F)C(=O)OCC | C10H8F3NO3S
